US08207177B2
Step i: tert-Butyl{[((1S,2S,4R)-4-{4-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methoxy]sulfonyl}carbamate
(1S,2S,4R)-4-{4-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2-(hydroxymethyl)cyclopentanol (27.6 mg, 0.117 mmol) and 2,6-di-tert-butyl-4-methylpyridine (48.5 mg, 0.236 mmol) were suspended in AcCN (1.57 mL) and cooled to 0° C. tert-Butyl (chlorosulfonyl)carbamate was added and the mixture was allowed to warm to rt overnight. The reaction was quenched via addition of MeOH (1.00 mL) and concentrated in vacuo. Silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM afforded the title compound (15.2 mg, 37%). LC/MS: Rt=1.29 min, ES+ 544 (FA standard).

reactant | (1S,2S,4R)-4-{4-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2-(hydroxymethyl)cyclopentanol | 0.117 mmol, 27.6 mg | [C@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@H]([C@H](C2)O)CO | C21H24N4O2
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.236 mmol, 48.5 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | tert-Butyl (chlorosulfonyl)carbamate | ClS(=O)(=O)NC(OC(C)(C)C)=O | C5H10ClNO4S
solvent | AcCN | 1.57 mL | C(=O)(C)C#N | C3H3NO
product | tert-Butyl{[((1S,2S,4R)-4-{4-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methoxy]sulfonyl}carbamate | 15.2 mg, 37% | C(C)(C)(C)OC(NS(=O)(=O)OC[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@@H]2CCC1=CC=CC=C21)O)=O | C26H33N5O6S
